US06953806B2
In analogy to the method described in example 12.1, trans-{2-[4-(3-chloro-(E)-propenyl)-cyclohexyl]-ethyl}-methyl-carbamic acid 4-chloro-phenyl ester was reacted with piperidine in N,N-dimethylacetamide at room temperature to yield trans-methyl-{2-[4-(3-piperidin-1-yl-(E)-propenyl)-cyclohexyl]-ethyl}-carbamic acid 4-chloro-phenyl ester as colorless viscous oil, MS: 419 (MH+, 1Cl).

reactant | trans-{2-[4-(3-chloro-(E)-propenyl)-cyclohexyl]-ethyl}-methyl-carbamic acid 4-chloro-phenyl ester | ClC1=CC=C(C=C1)OC(N(C)CC[C@@H]1CC[C@H](CC1)\C=C\CCl)=O | C19H25Cl2NO2
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | trans-methyl-{2-[4-(3-piperidin-1-yl-(E)-propenyl)-cyclohexyl]-ethyl}-carbamic acid 4-chloro-phenyl ester | ClC1=CC=C(C=C1)OC(N(CC[C@@H]1CC[C@H](CC1)\C=C\CN1CCCCC1)C)=O | C24H35ClN2O2
